Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:17])[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],28.79732653417541
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C@:4]1([O:5][H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10],45.34271396420221
[N:3]1([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[C:7]([H:8])[H:14].[O+:1]#[C-:2]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],83.8595578055357
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3]([C:4]([H:12])([H:13])[H:14])=[C:5](\[C:6]([O:7][H:19])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10].[H:11][H:16],98.9772347558584
[N:1]1=[C:2]=[C:3]([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],16.378066532519
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]([N+:3]([C:4]([H:12])([H:13])[H:14])([C:5](=[O:6])[H:15])[H:10])[H:11])([H:7])([H:8])[H:9],92.43145179793859
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O-:1][C+:2]([N:5]([C:3](=[C:4]([H:8])[H:9])[H:7])[H:10])[H:6],65.5472771177448
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]#[N:5])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:14],60.20358247007921
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]#[C:4][C:5](=[O:3])[H:9])([H:6])([H:7])[H:8],70.3496128191031
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([H:6])([H:7])([H:8])[H:12].[C:2]1([H:9])([H:10])/[C:3](=[N:5]/[H:11])[O:4]1,88.771026941012
[C:1]([C@@:2]1([H:11])[O:3]/[C:6]1=[C:7](\[C:4](=[O:5])[H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],58.557349177268165
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5]#[N:6])[H:7],55.6654188540835
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:5](=[C:4])[H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],58.8194345593212
[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:4]=[C:3]([H:11])[H:12])=[C:5]([O-:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],49.2959267125278
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[N:1]([C@:2]1([O:3][H:10])[C:4]([H:8])([H:9])[O:5]1)([H:6])[H:7],43.8026493796253
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:6]=[N:7][H:16])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:14])[H:15]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],34.802633253517094
[C:1]([C@@:2]1([H:11])[C:6]([O:5][C:4](=[O:3])[H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],32.101875484443696
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C:1](=[C:3]([C:2]([C:5]([N:4]=[C:6]([H:14])[H:15])([H:12])[H:13])([H:9])[H:10])[H:11])([H:7])[H:8],85.0805388406424
[N:1]([C:2][C:4]([C:5]#[N+:6][O-:3])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],38.15117309066302
[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2](/[C:5](=[C:6](\[C:3]#[C:4][H:11])[H:12])[H:9])[H:10])([H:7])[H:8],105.61983921003201
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:3]1([H:11])[C:2]([H:10])=[C:5]([H:12])[O:6][O:4]1)([H:7])([H:8])[H:9],72.54348426065259
[O-:1][C:2](=[C:3]([N+:4]#[C-:5])[O+:7]=[N:6][H:9])[H:8]>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],18.077599846441984
[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C-:3]=[C:4]1[C+:5]=[C:6]1[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],54.4134381595589
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[O:2][C:3]([H:11])([H:12])[C:4]1=[O:5].[O:6]([C:7]([H:13])([H:14])[H:15])[H:9],81.41064223255292
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:3](=[C:4]([O:5][H:8])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12].[O:1]=[C:2]([H:9])[H:10],27.706126880999197
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])(=[C:6]([H:18])[H:19])[H:14].[H:10][H:20]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],32.5433433120496
